US04282353
Vanillin glycidyl ether (3-methoxy-4-glycidyloxybenzaldehyde) was prepared in a similar manner to Method A, but starting from vanillin in place of p-hydroxybenzaldehyde. The yield was 96% of theory, the product having an epoxide content of 4.41 equivalents/kg (theoretical value 4.8 equivalents/kg). A sample was recrystallised from ethanol, giving 95% recovery of product having an epoxide content of 4.76 equivalents/kg, melting point 101° C. Salicylaldehyde glycidyl ether (o-glycidyloxybenzaldehyde) may be prepared in a like manner from salicylaldehyde.

reactant | vanillin | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | Salicylaldehyde glycidyl ether | C(C1CO1)OC=1C(C=O)=CC=CC1 | C10H10O3
reactant | salicylaldehyde | C(C=1C(O)=CC=CC1)=O | C7H6O2
product | Vanillin glycidyl ether | yield was 96% | C(C1CO1)OC1=C(C=C(C=O)C=C1)OC | C11H12O4
